US04303583
1-[3-(Benzoylthio)-1-oxo-propyl]-2,3-dihydro-1H-indole-2-carboxylic acid
To a stirring mixture of 2,3-dihydro-1-(1-oxo-2-propenyl)-1H-indole-2-carboxylic acid (6.52 g.) and methylene chloride (160 ml.) was added dropwise thiobenzoic acid (95%, 4.36 g.) dissolved in a small amount of methylene chloride. During the addition, the reaction mixture was chilled in ice. The ice bath was removed in 10 minutes after the completion of the addition, but the stirring was continued for 1 hour. The reaction mixture was then immersed in an oil bath maintained at 80° for 2.5 hours. The reaction mixture was concentrated on a rotary evaporator under reduced pressure to ca. 30 ml., and kept in a refrigerator for 1 day. A precipitate was collected on a filter and washed with methylene chloride to give the titled compound which melted at 173°-175°, and weighed 11.0 g.

reactant | 2,3-dihydro-1-(1-oxo-2-propenyl)-1H-indole-2-carboxylic acid | 6.52 g | O=C(C=C)N1C(CC2=CC=CC=C12)C(=O)O | C12H11NO3
reactant | thiobenzoic acid | 4.36 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-(Benzoylthio)-1-oxo-propyl]-2,3-dihydro-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)(=O)SCCC(=O)N1C(CC2=CC=CC=C12)C(=O)O | C19H17NO4S
